US07262182B2
4-(Thiomethyl)benzoic acid was prepared from methyl 4-(bromomethyl)benzoate using the procedure of Org. Syn. Coll. Vol. 3, page 363 (reaction with thiourea in ethanol, followed by hydrolysis of the ester with aqueous sodium hydroxide). 4-(Thiomethyl)benzoic acid, 2 g, was alkylated with 2-(4-bromobenzenesulfonyloxy)ethyl tetrakis(2-chloroethyl)phosphorodiamidate, 15.8 mL of 0.83 M, in 10 mL methanol and 6.25 mL of 4 M sodium hydroxide in methanol. The resulting product after filtration and concentration was a pale yellow oil, which was dissolved in saturated aqueous sodium bicarbonate and washed twice with 100 mL isopropyl acetate. The aqueous extracts were combined, acidified to pH ˜1 with sulfuric acid, and back extracted twice with into 100 mL isopropyl acetate. The isopropyl acetate layers were combined, dried over MgSO4, filtered, and concentrated under vacuum to give α-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-4-carboxytoluene as a pale yellow oil, 5.4 g, with product identity verified by LC-MS.

reactant | methyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(4-bromobenzenesulfonyloxy)ethyl tetrakis(2-chloroethyl)phosphorodiamidate | ClCCN(P(OCCOS(=O)(=O)C1=CC=C(C=C1)Br)(=O)N(CCCl)CCCl)CCCl | C16H24BrCl4N2O5PS
reactant | sodium hydroxide | 4 M, 6.25 mL | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 10 mL | CO | CH4O
product | α-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-4-carboxytoluene | ClCCN(CCCl)P(=O)(OCCSCC1=CC=C(C=C1)C(=O)O)N(CCCl)CCCl | C18H27Cl4N2O4PS
